US03976648
Preparation of Zinc Bis(2,2-dimethylthiazolidine-3-carbodithioate) ##SPC12##
While cooling and stirring at 10°C, 76.8 g. (0.50 mole) 2,2-dimethylthiazolidine hydrochloride [preparation described by B. Sweetman et al, J. Med. Chem. 12, 888 (1969)] was added to a mixture of 30 ml isopropanol and 101 g. (1.00 mole) triethylamine. Likewise, 38.0 g. (0.50 mole) of carbon disulfide was gradually added, followed by 45.8 g. (0.25 mole) of anhydrous zinc acetate. After standing overnight at room temperature, the precipitate was filtered, twice water-washed with 1 liter portions of water and air-dried to give 80.5 g. of the yellow product melting at 148° - 153°C (decomp.) and having the following analysis:

reactant | 2,2-dimethylthiazolidine hydrochloride | 0.50 mole | Cl.CC1(SCCN1)C
reactant | triethylamine | 1.00 mole | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.50 mole | C(=S)=S | CS2
reactant | zinc acetate | 0.25 mole | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | Zinc Bis(2,2-dimethylthiazolidine-3-carbodithioate) | CC1(SCCN1C(=S)[S-])C.CC1(SCCN1C(=S)[S-])C.[Zn+2] | InChI=1S/2C6H11NS3.Zn/c2*1-6(2)7(5(8)9)3-4-10-6;/h2*3-4H2,1-2H3,(H,8,9);/q;;+2/p-2
